US07851473B2
(3) N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-2-thienyl)piperazine-1-carboxamide
A solution of 1-(4-phenyl-2-thienyl)piperazine (240 mg, 0.984 mmol), bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate (239 mg, 0.492 mmol), diisopropylethylamine (0.0857 ml, 0.492 mmol) and dimethylsulfoxide (3 ml) was stirred at 70° C. for 2 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (42.5 mg, 21.4%) as a solid.

reactant | 1-(4-phenyl-2-thienyl)piperazine | 0.984 mmol, 240 mg | C1(=CC=CC=C1)C=1C=C(SC1)N1CCNCC1 | C14H16N2S
reactant | bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate | 0.492 mmol, 239 mg | O1N=C(C2=C1C=CC=C2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H8Cl6N2O5
reactant | diisopropylethylamine | 0.492 mmol, 0.0857 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-2-thienyl)piperazine-1-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C=2SC=C(C2)C2=CC=CC=C2 | C22H20N4O2S
